US05231181
A solution of 27.3 Kg of 2,4-dioxo-9-methoxy-1,2,3,4,6,7-hexahydro-11bH-benzo[a]quinolizine, 19.6 Kg of 3-bromopropylamine hydrobromide and 22.8 Kg of 2,6-lutidine in 70 litres of n-butanol was refluxed for 1 hour. Butanol and excess 2,6-lutidine were removed under reduced pressure, and the solid residue dissolved in 150 litres of methanol at reflux temperature. The temperature was maintained above 70° C. while 150 litres of water was added. The mixture was cooled to 10° C., the precipitate filtered off and washed with 1:1 aqueous methanol. This product was recrystallized from a mixture of 150 Kg of methanol and 175 Kg of water. Drying under vacuum at 80° C. for three days gave 17.9 Kg of (±)-3-methoxy-5,6,9,10,11,12,13,13a-octahydroisoquino[2,1-g][1,6]naphthyridin-8-one, m.p. 202°-205° C.

reactant | 2,4-dioxo-9-methoxy-1,2,3,4,6,7-hexahydro-11bH-benzo[a]quinolizine | 27.3 Kg | O=C1CC(N2CCC3=C(C2C1)C=CC(=C3)OC)=O | C14H15NO3
reactant | 3-bromopropylamine hydrobromide | 19.6 Kg | Br.BrCCCN
reactant | 2,6-lutidine | 22.8 Kg | N1=C(C=CC=C1C)C | C7H9N
solvent | n-butanol | 70 litres | C(CCC)O | C4H10O
product | (±)-3-methoxy-5,6,9,10,11,12,13,13a-octahydroisoquino[2,1-g][1,6]naphthyridin-8-one | 17.9 Kg | COC1=CC=2CCN3C(C=4CCCNC4CC3C2C=C1)=O | C17H20N2O2
